US06855722B2
a) 5-(2,2-Dibromo-vinyl)-benzo[1,3]dioxole
To a solution of piperonal (4.5 g, 30 mmol) and triphenylphosphine (24 g, 90 mmol) in DCM (120 mL) in an ice-water bath was added a solution of carbontetrabromide (15 g, 45 mmol) over a 10 minutes period. After the addition completed, the ice-water bath was removed, the reaction stirred at ambient temperature for 2 h, and then quenched with saturated NaHCO3. Aqueous was separated, and extracted with dichloromethane (2 times). The organic layers were combined, dried over Na2SO4, filtered, and concentrated to give a redish colored residue, that was filtered through a short path silica gel plug, eluting with DCM/hexane (10% to 20%). Concentration of the filtrate gave the title compound (6.5 g, 74% yield) as a pale yellow liquid. 1H NMR (CDCl3) δ 7.36 (s, 1H), 7.18 (d, 1H, J=1.6 Hz), 6.95 (dd, 1H, J=1.5, 8.1 Hz), 6.79 (d, 1H, J=8.1 Hz), 5.99 (s, 2H).

reactant | piperonal | 30 mmol, 4.5 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | triphenylphosphine | 90 mmol, 24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrabromide | 45 mmol, 15 g | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | 5-(2,2-Dibromo-vinyl)-benzo[1,3]dioxole | 6.5 g, 74% yield | BrC(=CC1=CC2=C(OCO2)C=C1)Br | C9H6Br2O2
